US06121308
i. 2-[(4-Amidinophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline-hydrochloride
Prepared analogously to Example 1e from 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline and hydrochloric acid/ammonium carbonate in ethanol.

reactant | 2-[(4-cyanophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline | C(#N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)N(CC(=O)OCC)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | C31H26N4O5S
reactant | hydrochloric acid ammonium carbonate | Cl.C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[(4-Amidinophenyl)-oxymethyl]-4-methyl-7-[N-(ethoxycarbonylmethyl)-quinoline-8-sulphonylamino)-quinoline-hydrochloride | Cl.C(N)(=N)C1=CC=C(C=C1)OCC1=NC2=CC(=CC=C2C(=C1)C)N(CC(=O)OCC)S(=O)(=O)C=1C=CC=C2C=CC=NC12 | InChI=1S/C31H29N5O5S.ClH/c1-3-40-29(37)18-36(42(38,39)28-8-4-6-21-7-5-15-34-30(21)28)24-11-14-26-20(2)16-23(35-27(26)17-24)19-41-25-12-9-22(10-13-25)31(32)33;/h4-17H,3,18-19H2,1-2H3,(H3,32,33);1H
